US06316637B1
4-Bromo-7-methyl-5-n-aminobenzimidazole.
A solution of 4,7-dibromo-5-aminobenzimidazole (1.5 g, 5.1 mmol) in 10 ml of DMF was transferred into pressure bottle under Ar2. To the solution was added tetramethyltin (3.6 ml, 20 mmol) and bis(triphenylphosphine)palladium(II) chloride (200 mg). The resulting reaction mixture was stirred at 140° C. for 24 h and concentrated in vacuo, yielding a dark oil which was subjected to column chromatography (40% EtOAC/CHCl3) to yield 0.34 g (1.5 mmol, 29%) of the desired product as well as 0.75 g of 4,7-dimethyl-5-aminobenzimidazole.

reactant | 4,7-dibromo-5-aminobenzimidazole | 5.1 mmol, 1.5 g | BrC1=C(C=C(C=2N=CNC21)Br)N | C7H5Br2N3
reactant | tetramethyltin | 20 mmol, 3.6 ml | C[Sn](C)(C)C
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 200 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4,7-dimethyl-5-aminobenzimidazole | 0.75 g | CC1=C(C=C(C=2N=CNC21)C)N | C9H11N3
